US03953506
To a solution containing 7.4 grams (0.05 mole) of 1,2,3,4-tetrahydro-1-naphthylamine in 150 ml. anhydrous ether is added dropwise with stirring 3.6 grams (0.05 mole) ethyl isocyanate in 10 ml. ether. After the addition, the mixture is heated under reflux for 3 hours, the mixture cooled, and the solid collected by filtration. Recrystallization of the crude product from aqueous methanol gives analytically pure 1-ethyl-3-(1,2,3,4-tetrahydro-1-naphthyl)urea, melting point 178°C. to 179°C. Other aprotic solvents such as acetone, tetrahydrofuran and benzene may be used as solvents for this reaction. Temperatures employed for the reaction are in the range of 0°C. to 100°C.

reactant | 1,2,3,4-tetrahydro-1-naphthylamine | 0.05 mole, 7.4 grams | C1(CCCC2=CC=CC=C12)N | C10H13N
reactant | ethyl isocyanate | 0.05 mole, 3.6 grams | C(C)N=C=O | C3H5NO
solvent | ether | CCOCC | C4H10O
product | 1-ethyl-3-(1,2,3,4-tetrahydro-1-naphthyl)urea | C(C)NC(=O)NC1CCCC2=CC=CC=C12 | C13H18N2O
